US04102888
Step A-6. Preparation of 4(S)-Acetyloxynonanal
This compound is prepared essentially by the method as described in Example 5, Step B-6, except that the 4-benzyloxy-5-(4-fluorophenoxy)pentanol is replaced by 4(S)acetyloxy-1-nonanol. This method provides the title compound as an essentially colorless oil.

reactant | 4-benzyloxy-5-(4-fluorophenoxy)pentanol | C(C1=CC=CC=C1)OC(CCCO)COC1=CC=C(C=C1)F | C18H21FO3
reactant | 4(S)acetyloxy-1-nonanol | C(C)(=O)O[C@H](CCCO)CCCCC | C11H22O3
product | 4(S)-Acetyloxynonanal | C(C)(=O)O[C@H](CCC=O)CCCCC | C11H20O3
